US05358940
Under argon, 630 mg (27.4 mmol) of sodium are added to 10 ml of diethylene glycol and the mixture is heated for one hour at 100° C. At that temperature, 5 g (27.4 mmol) of 3,6,9-trioxadecyl chloride are added dropwise thereto using a syringe. The mixture is stirred overnight at 100° C. to complete the reaction. After cooling, the reaction solution is taken up in CH2Cl2, washed with water and brine and dried over Na2SO4. Removal of the solvent yields 3,6,9,12,15-pentaoxa-hexadecanol in the form of an oil (Liebigs Ann. Chem. 1980, 858); NMR(CDCl3): 3.8-3.5 (m,20H); 3.75 (s,3H).

reactant | sodium | 27.4 mmol, 630 mg | [Na] | Na
reactant | diethylene glycol | 10 ml | C(COCCO)O | C4H10O3
reactant | 3,6,9-trioxadecyl chloride | 27.4 mmol, 5 g | C(COCCOCCOC)Cl | C7H15ClO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3,6,9,12,15-pentaoxa-hexadecanol | C(COCCOCCOCCOCCOC)O | C11H24O6
